US07452909B2
4-[1-(3,4-Difluoro-benzyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
The title compound, MS: m/e=324.2 (M+H30), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 3,4-difluoro-benzylbromide.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 3,4-difluoro-benzylbromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 4-[1-(3,4-Difluoro-benzyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | FC=1C=C(CN2C(=NC(=C2)C#CC2=CC(=NC=C2)C)C)C=CC1F | C19H15F2N3
